US08030504B2
Chroman-2-carboxylic acid
4-Oxo-4H-chromene-2-carboxylic acid (Aldrich, 3.0 g, 15.8 mmol) was added to a mixture of acetic acid (30 mL) and 10% palladium on carbon (0.3 g) in a Parr shaker. The glass reactor was sealed and flushed with nitrogen, and it was pressurized with hydrogen (60 psi). The mixture was shaken at 70° C. for 2.5 hours. The mixture was filtered and the solids were rinsed with methanol. The filtrate was concentrated under reduced pressure and chromatographed on silica gel eluting with 0-to-10% methanol in ethyl acetate to afford the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 2.04 (m, 1H), 2.14 (m, 1H), 2.63 (dt, 1H), 2.78 (dt, 1H), 4.76 (dd, 1H), 6.80 (m, 2H), 7.05 (m, 2H). MS (ESI) m/z 177.09 (M−H)−.

reactant | 4-Oxo-4H-chromene-2-carboxylic acid | 15.8 mmol, 3.0 g | O=C1C=C(OC2=CC=CC=C12)C(=O)O | C10H6O4
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | Chroman-2-carboxylic acid | O1C(CCC2=CC=CC=C12)C(=O)O | C10H10O3
